US07829560B2
4-Hydroxy-3,4,5,6-tetrahydro-2 H-[1,2′]bipyridinyl-4′-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide (Compound B43).
Compound is formed by reacting 2-chloro-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide and piperidin-4-ol under conditions described in general procedure A. 1H NMR (300 MHz, DMSO-d6) δ 10.39 (s, 1H), 8.29 (d, 1H), 8.21 (m, 1H), 7.85 (m, 1H), 7.59 (m, 2H), 7.41 (m, 2H), 7.15 (d, 1H), 7.05 (d, 1H), 4.31 (t, 2H), 4.10 (m, 2H), 3.75 (m, 1H), 3.60 (t, 4H), 3.20 (m, 2H), 2.89 (m, 2H), 2.59 (m, 4H), 1.81 (m, 2H), 1.40 (m, 2H). MS: 477.3 (M+1).

reactant | 2-chloro-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | ClC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CN1 | C22H22ClN3O3
reactant | piperidin-4-ol | N1CCC(CC1)O | C5H11NO
product | 4-Hydroxy-3,4,5,6-tetrahydro-2 H-[1,2′]bipyridinyl-4′-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(=O)C1=CC(=NC=C1)N1CCC(CC1)O | C27H32N4O4
